US05712300
Preparation of α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid
Trifluoroacetic acid (2.0 mL) is added to a solution of tert-butyl α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate (282 mg, 0.507 mmol) in CH2Cl2 (4.0 mL) at 0° C. The solution is stirred for 1 hour at 0° C. A second portion of trifluoroacetic acid (2.0 mL) is added, and the solution is stirred for 30 minutes at 0° C. and for 30 minutes at room temperature. Concentration and aqueous workup (CH2Cl2, MgSO4) to give 217 mg (90%) of the title compound as a colorless oil.

reactant | Trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butyl α-[2-(1,3-dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetate | 0.507 mmol, 282 mg | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)OC(C)(C)C)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C32H40N2O5
reactant | trifluoroacetic acid | 2.0 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 4.0 mL | C(Cl)Cl | CH2Cl2
product | α-[2-(1,3-Dihydro-1,3-dioxo-2H-isoindol-2-yl)ethyl]-3-(2-methylpropyl)-2-oxo-1-(2-phenylethyl)-3-pyrrolidineacetic Acid | 217 mg, 90% | O=C1N(C(C2=CC=CC=C12)=O)CCC(C(=O)O)C1(C(N(CC1)CCC1=CC=CC=C1)=O)CC(C)C | C28H32N2O5
